US08937071B2
A suspension of tin(II) chloride dihydrate (58.6 mg, 0.260 mmol) in EA (60 mL) was added to a solution of 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetonitrile (30 mg, 0.130 mmol) in EA (60 mL). The mixture was at 50° C. for 3 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The resulting 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)acetonitrile (16 mg, 0.080 mmol, 61.3% yield) was used in the next step without further purification. TLC (PE/EA=1:1, Rf=0.5): 1H NMR (400 MHz, CDCl3) δ: 8.19-8.27 (m, 1H), 7.22 (d, J=2.5 Hz, 1H), 3.97 (s, 2H); ES-LCMS m/z 202.0 (M+H).

reactant | tin(II) chloride dihydrate | 0.260 mmol, 58.6 mg | O.O.[Sn](Cl)Cl
reactant | 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetonitrile | 0.130 mmol, 30 mg | [N+](=O)([O-])C=1C=C(C(=NC1)CC#N)C(F)(F)F | C8H4F3N3O2
solvent | EA | 60 mL | CC(OCC)=O | C4H8O2
solvent | EA | 60 mL | CC(OCC)=O | C4H8O2
product | 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)acetonitrile | 0.080 mmol, 16 mg, 61.3% yield | NC=1C=C(C(=NC1)CC#N)C(F)(F)F | C8H6F3N3
